US06951879B2
According to the method in example 4, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and 2-(methylamino)ethanol were converted to yield 2-[[4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl]-methyl-amino]-ethanol, MS: 436 (MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | 2-(methylamino)ethanol | CNCCO | C3H9NO
product | 2-[[4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl]-methyl-amino]-ethanol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CCO)C | C20H23BrN2O2S
